US07230023B2
According to a similar procedure to that described in Example 4-(6), 4-methoxybenzyl 2-[[bis(allyloxy)phosphoryl]oxymethyl]-3-fluorobenzoate (1.40 g, 3.12 mmol) obtained in Example 6-(1) was reacted with anisole (1.4 g, 12.9 mmol) and trifluoroacetic acid (5 ml), and the reaction mixture was worked up to afford 2-[[bis(allyloxy)phosphoryl]oxymethyl]-3-fluorobenzoic acid as a crude product. According to a similar procedure to that described in Example 4-(6), the crude product obtained above, oxalyl chloride (1.98 g, 15.6 mmol), and N,N-dimethylformamide (15 μl) were reacted, and the reaction mixture was worked up to afford 2-[[bis(allyloxy)phosphoryl]oxymethyl]-3-fluorobenzoyl chloride as a crude product.

reactant | 4-methoxybenzyl 2-[[bis(allyloxy)phosphoryl]oxymethyl]-3-fluorobenzoate | 3.12 mmol, 1.40 g | C(C=C)OP(=O)(OCC=C)OCC1=C(C(=O)OCC2=CC=C(C=C2)OC)C=CC=C1F | C22H24FO7P
reactant | anisole | 12.9 mmol, 1.4 g | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-[[bis(allyloxy)phosphoryl]oxymethyl]-3-fluorobenzoic acid | C(C=C)OP(=O)(OCC=C)OCC1=C(C(=O)O)C=CC=C1F | C14H16FO6P
